US06960595B2
A suspension of ethyl p-methoxybenzoylacetate (16.3 mL, 85 m mol) and SeO2 (9.9 g, 89 m mol) in 80 mL of dioxane was heated to reflux overnight. After being cooled down to rt, the reaction mixture was filtered to remove inorganic solid. The filtrate was concentrated under reduced pressure and treated with benzene. The benzene solution was concentrated to dryness under reduced pressure to yield ethyl 2,3-dioxo-(p-methoxyphenyl) -propionate, which was used in next step without further purification.

reactant | ethyl p-methoxybenzoylacetate | 16.3 mL | COC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C12H14O4
reactant | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | ethyl 2,3-dioxo-(p-methoxyphenyl) -propionate | O=C(C(=O)OCC)C(=O)C1=CC=C(C=C1)OC | C12H12O5
